US06667336B2
To a solution of (Z)-N-(1-(4-bromophenyl)-1-(3-thienyl)prop-1-en-3-yl)sarcosine, tbutyl ester E(i) (21.14 g, 50.05 mmol) in dimethoxyethane (210 mL) was added 4-isopropylbenzeneboronic acid (16.41 g, 100.1 mmol), Pd(PPh3)4 (2.89 g, 2.50 mmol), and 2M Na2CO3 (210 mL). The vigorously stirred mixture was heated to reflux for 2 hours. The mixture was cooled, and partitioned between EtOAc and water. The organic phase was washed with brine, dried (MgSO4), filtered, and concentrated. Column chromatography (2-5% acetone/hexanes) followed by a second chromatography (2-20% EtOAc/hexanes) provided (Z)-N-(1-(4-(4-Isopropylphenyl)phenyl)-1-(3-thienyl)prop-1-en-3-yl)sarcosine, tbutyl ester F(i) (18.65 g, 81%) as a yellow oil. 1H NMR (300 MHz, CDCl3) 1.29 (d, 6H), 1.44 (s, 9H), 2.39 (s, 3H), 2.95 (hept, 1H), 3.16 (s, 2H), 3.30 (d, 2H), 6.26 (t, 1H), 6.93 (d, 1H), 7.18 (d, 1H), 7.26-7.35 (m, 5H), 7.50-7.54 (m, 4H).

reactant | (Z)-N-(1-(4-bromophenyl)-1-(3-thienyl)prop-1-en-3-yl)sarcosine | BrC1=CC=C(C=C1)/C(=C/CN(C)CC(=O)O)/C1=CSC=C1 | C16H16BrNO2S
reactant | 4-isopropylbenzeneboronic acid | 100.1 mmol, 16.41 g | C(C)(C)C1=CC=C(C=C1)B(O)O | C9H13BO2
reactant | Na2CO3 | 2M, 210 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dimethoxyethane | 210 mL | C(OC)COC | C4H10O2
catalyst | Pd(PPh3)4 | 2.50 mmol, 2.89 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (Z)-N-(1-(4-(4-Isopropylphenyl)phenyl)-1-(3-thienyl)prop-1-en-3-yl)sarcosine | C(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)/C(=C/CN(C)CC(=O)O)/C1=CSC=C1 | C25H27NO2S
